US09168248B2
Step 2: Ethyl{5-[2-(4-oxopiperidin-1-yl)-1,3-thiazol-5-yl]-2H-tetrazol-2-yl}acetate.
To a solution of ethyl{5-[2-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-1,3-thiazol-5-yl]-2H-tetrazol-2-yl}acetate (377 mg, 0.99 mmol) in THF (4.95 mL) was added 1N HCl (1.09 mL, 1.09 mmol). The reaction mixture was heated to 65° C. for 3 h. The volatiles were evaporated under reduced pressure. The mixture was diluted with water (20 mL) and extracted with EtOAc (3×5 mL). The combined organic fractions were dried over MgSO4, filtered and evaporated under reduced pressure. The residue was purified by Combiflash™ chromatography (SiO2, 12 g, elution with 10-70% EtOAc/hexanes over 40 min) to afford the title compound as solid. 1H NMR (500 MHz, DMSO-d6): δ 7.92 (s, 1 H), 5.85 (s, 2 H), 4.22 (q, 2 H), 3.90 (t, 4 H), 2.57 (t, 4 H), 1.23 (t, 3 H). MS (+ESI): m/z 337.1 (MH+).

reactant | ethyl{5-[2-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-1,3-thiazol-5-yl]-2H-tetrazol-2-yl}acetate | 0.99 mmol, 377 mg | C(C)OC(CN1N=C(N=N1)C1=CN=C(S1)N1CCC2(OCCO2)CC1)=O | C15H20N6O4S
reactant | HCl | 1.09 mmol, 1N, 1.09 mL | Cl | ClH
solvent | THF | 4.95 mL | C1CCOC1 | C4H8O
product | Ethyl{5-[2-(4-oxopiperidin-1-yl)-1,3-thiazol-5-yl]-2H-tetrazol-2-yl}acetate | C(C)OC(CN1N=C(N=N1)C1=CN=C(S1)N1CCC(CC1)=O)=O | C13H16N6O3S
